US06927228B2
(c) N-(4′-[1,3]Dioxolan-2-ylbiphenyl-3-yl-methyl) benzamide
3.2 g (10 mmol) of N-(4-formylbiphenyl-3-yl-methyl)benzamide, 50 ml of toluene, 2.8 ml (50 mmol) of ethylene glycol and 38 mg (0.2 mmol) of para-toluenesulfonic acid are introduced into a three-necked flask under a stream of nitrogen. The reaction medium is refluxed for 3 hours and the water formed is separated off using Dean-stark apparatus. The reaction medium is extracted with dichloromethane and washed with water, and the organic phase is separated out after settling of the phases has taken place. The organic phase is dried over magnesium sulfate and filtered. 3.7 g (100%) of the desired product are obtained.

reactant | N-(4-formylbiphenyl-3-yl-methyl)benzamide | 10 mmol, 3.2 g | C(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)CNC(C1=CC=CC=C1)=O | C21H17NO2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethylene glycol | 50 mmol, 2.8 ml | C(CO)O | C2H6O2
catalyst | para-toluenesulfonic acid | 0.2 mmol, 38 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | N-(4′-[1,3]Dioxolan-2-ylbiphenyl-3-yl-methyl) benzamide | 3.7 g, 100% | O1C(OCC1)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(C1=CC=CC=C1)=O | C23H21NO3
